US04282242
5-(3,4-Dichlorophenylthio)pyrrole-3-carboxylic Acid
Methyl 5-(3,4-dichlorophenylthio)pyrrole-3-carboxylate (1.7 g.) was combined with 20 ml. of methanol and 20 ml. of 1 N sodium hydroxide and refluxed for 3 hours. The methanol was allowed to evaporate, and approximately one volume of water was added to the aqueous residue, which was then extracted twice with ether, cooled in an ice-water bath, acidified with conc. hydrochloric acid, and the product extracted into ethyl acetate. The three ethyl acetate extracts were combined, washed with saturated brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a gummy solid which was crystallized by trituration with hexane and recovered by filtration (1.34 g., m.p. 156°-159° C.). Recrystallization from chloroform gave purified 5-(3,4-dichlorophenylthio)pyrrole-3-carboxylic acid (850 mg., m.p. 159°-161° C.).

reactant | Methyl 5-(3,4-dichlorophenylthio)pyrrole-3-carboxylate | 1.7 g | ClC=1C=C(C=CC1Cl)SC1=CC(=CN1)C(=O)OC | C12H9Cl2NO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(3,4-Dichlorophenylthio)pyrrole-3-carboxylic Acid | ClC=1C=C(C=CC1Cl)SC1=CC(=CN1)C(=O)O | C11H7Cl2NO2S
